US07994317B2
c) Preparation of methyl cis-4-(methylamino)cyclohexanecarboxylate
A mixture of methyl cis-4-[{[(1,1-dimethylethyl)oxy]carbonyl}(methyl)amino]cyclohexanecarboxylate (˜10 g, crude product from above) and 1M HCl in dioxane (20 mL) was heated to 50° C. and allowed to stir overnight. The mixture was concentrated to give the 3 g of crude product. MS (ES+): m/e 172.1 [M+H]+.

reactant | methyl cis-4-[{[(1,1-dimethylethyl)oxy]carbonyl}(methyl)amino]cyclohexanecarboxylate | ˜10 g | CC(C)(C)OC(=O)N([C@H]1CC[C@H](CC1)C(=O)OC)C | C14H25NO4
reactant | HCl | 1M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | methyl cis-4-(methylamino)cyclohexanecarboxylate | 3 g | CN[C@H]1CC[C@H](CC1)C(=O)OC | C9H17NO2
